US07402595B2
N-[[4-[(6-bromo-1-oxo-4-phenyl-3-propionyl-2(1H)-isoquinolinyl)methyl]phenyl]sulfonyl]acetamide
The present compound was synthesized by a method similar to that in Example 515 and using acetic anhydride and 4-(6-bromo-1-oxo-4-phenyl-3-propionyl-1H-isoquinolin-2-ylmethyl)benzenesulfonamide. 1H NMR (CDCl3) δ: 0.49 (3H, t, J=7.2 Hz), 1.71 (2H, q, J=7.2 Hz), 2.00 (3H, s), 5.36 (2H, s), 7.23-7.30 (2H, m), 7.39 (2H, d, J=8.4 Hz), 7.43-7.52 (4H, m), 7.68 (1H, dd, J=2.1, 8.7 Hz), 7.96 (2H, d, J=8.4 Hz), 8.38 (1H, d, J=8.7 Hz). HPLC analysis: purity 99.4% (retention time: 4.50 min). MS (ESI+): 567 (M+H), 569.

reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-(6-bromo-1-oxo-4-phenyl-3-propionyl-1H-isoquinolin-2-ylmethyl)benzenesulfonamide | BrC=1C=C2C(=C(N(C(C2=CC1)=O)CC1=CC=C(C=C1)S(=O)(=O)N)C(CC)=O)C1=CC=CC=C1 | C25H21BrN2O4S
product | N-[[4-[(6-bromo-1-oxo-4-phenyl-3-propionyl-2(1H)-isoquinolinyl)methyl]phenyl]sulfonyl]acetamide | BrC=1C=C2C(=C(N(C(C2=CC1)=O)CC1=CC=C(C=C1)S(=O)(=O)NC(C)=O)C(CC)=O)C1=CC=CC=C1 | C27H23BrN2O5S
